US08026261B2
1-Allyl-5-benzyloxy-2-difluoromethyl-1H-pyridin-4-one
A mixture of 5-benzyloxy-2-difluoromethyl-pyran-4-one (4.00 g, 15.8 mmol), allylamine (3.60 mL, 47.5 mmol) in methanol (40 mL) was stirred at room temperature for 1 hour. The reaction mixture was evaporated to dryness, and the residual solid was dissolved in 10 mL of ethyl acetate, and again concentrated in vacuo. The solid was suspended in a mixture of ethyl acetate and ether, then collected by suction filtration and thoroughly washed with ether. The off-white solid was dried to constant weight in a vacuum oven at 40° C. to afford the title product (3.38 g, 73% yield). HPLC purity (peak area percent) is 98.9% at λ=278 nm using HPLC Method 1 as described above. 1H NMR (400 MHz, CDCl3) δ (ppm): 7.35-7.43 (m, 5H, ArH), 7.16 (s, 1H), 6.79 (s, 1H), 6.48 (t, J=53.1 Hz, 1H, CF2H), 5.80-5.86 (m, 1H), 5.29 (d, J=10.4 Hz, 1H), 5.22 (s, 2H, OCH2), 5.10 (d, J=17.1 Hz, 1H), 4.58 (d, J=5.2 Hz, 2H); MS-ESI (m/z): 291.9 [M+1]+, 91.0.

reactant | 5-benzyloxy-2-difluoromethyl-pyran-4-one | 15.8 mmol, 4.00 g | C(C1=CC=CC=C1)OC=1C(C=C(OC1)C(F)F)=O | C13H10F2O3
reactant | allylamine | 47.5 mmol, 3.60 mL | C(C=C)N | C3H7N
solvent | methanol | 40 mL | CO | CH4O
product | 1-Allyl-5-benzyloxy-2-difluoromethyl-1H-pyridin-4-one | 3.38 g, 73% yield | C(C=C)N1C(=CC(C(=C1)OCC1=CC=CC=C1)=O)C(F)F | C16H15F2NO2
